US06143763
To a mixture of water (50 ml) and acetonitrile (50 ml) are added 6-(3-aminopropoxy)carbostyril hydrochloride (5.0 g) and potassium carbonate (3.4 g) at room temperature. The mixture is stirred at room temperature for 2 hours, and cooled to -5° C. To the mixture is added dropwise phenyl chlorocarbonate (3.9 g) while the temperature of the mixture is kept below 0° C. The mixture is stirred at the same temperature for 1 hour, and thereto is added water (100 ml), and then the mixture is further stirred for 0.5 hour. The precipitated crystals are collected by filtration, and washed successively with water and acetone to give 6-(3-phenoxycarbonylaminopropoxy)carbostyril (6.0 g) as a white powder.

reactant | 6-(3-aminopropoxy)carbostyril hydrochloride | 5.0 g | Cl.NCCCOC=1C=C2C=CC(NC2=CC1)=O
reactant | potassium carbonate | 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenyl chlorocarbonate | 3.9 g | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | water | 100 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | 6-(3-phenoxycarbonylaminopropoxy)carbostyril | 6.0 g | O(C1=CC=CC=C1)C(=O)NCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18N2O4
